US06300544B1
5 μl membranes isolated as described in Halkier et al, Archives of Biochemistry and Biophysics 322: 369-377, 1995, from E. coli expressing “12” was reconstituted with 0.225 units NADPH-cytochrome P450-reductase, 50 μg NADPH, 42 nCi p-hydroxyphenylacetaldehyde oxime, and 100 μg dilaurylphosphatidylcholine in a total volume of 100 μl of 30 mM Tricine pH 7.9. After incubation at 30° C. for 30 minutes the reaction mixture was applied to a TLC plate and analyzed as described above. Reconstitution of membranes from E. coli expressing “12” resulted in the accumulation of p-hydroxybenzaldehyde which is the stable dissociation product of p-hydroxymandelonitrile, the last intermediate in the biosynthesis of the cyanogenic glucoside dhurrin. This shows that demonstrates that “12” is the cytochrome P450 that catalyzes the conversion of p-hydroxyphenylacetaldehyde oxime to p-hydroxymandelonitrile. The cDNA is designated P450OX. A clone comprising the described cDNA of P450OX has been deposited on Jan. 10, 1997 with the DSMZ-Deutsche Sammlung von Mikroorganismen und Zellkulturen GmbH, Mascheroder Weg 1b, D-38124 Braunschweig, under the accession number DSM 11367.

reactant | NADPH | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | NADPH | 50 μg | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
reactant | p-hydroxyphenylacetaldehyde oxime | OC1=CC=C(C=C1)CC=NO | C8H9NO2
reactant | Tricine | 30 mM, pH 7.9 | N(CC(=O)O)C(CO)(CO)CO | C6H13NO5
product | p-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
